US09085540B2
A mixture of 1-[1-(4-nitrophenyl)piperidin-4-yl]piperazine monohydrochloride (1 g), oxetan-3-one (300 mg), sodium triacetoxyborohydride (1.02 g), dichloromethane (20 mL), acetic acid (1 mL), and chloroform (30 mL) was stirred at room temperature for 2 days. To the reactant were added a saturated aqueous sodium hydrogen carbonate solution and chloroform, followed by liquid separation. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=1:0-9:1) to obtain 1-[1-(4-nitrophenyl)piperidin-4-yl]-4-(oxetan-3-yl)piperazine (670 mg) as a yellow solid.

reactant | 1-[1-(4-nitrophenyl)piperidin-4-yl]piperazine monohydrochloride | 1 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)N1CCNCC1
reactant | oxetan-3-one | 300 mg | O1CC(C1)=O | C3H4O2
reactant | sodium triacetoxyborohydride | 1.02 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[1-(4-nitrophenyl)piperidin-4-yl]-4-(oxetan-3-yl)piperazine | 670 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C1COC1 | C18H26N4O3
